US07018997B2
Step 1: Preparation of 4-benzyloxyethoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine
(S M:Ross, L. O.; Goodman, L.; Baker, B. R. J. Am. Chem. Soc. 1959, 81, 3108) To stirred suspension of NaH (60% 552 mg) in THF 2-benzyloxyethanol (3.38 g, 20 mmol) was slowly added at room temperature. After the addition, 3.28 grams (19.4 mmol) of 4-chloro-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine was dissolved in 200 ml THF and added to it and the mixture was refluxed for 3 hours. Then the solvent was removed in vacuo and 100 ml water was added to the residue. The product was extracted with chloroform; washed well with water and dried over anhydrous MgSO4. It was filtered and concentrated. Low melting solid; Yield: 4.2 gram (73%); (M+H) 286.1

reactant | NaH | 552 mg | [H-].[Na+]
reactant | THF 2-benzyloxyethanol | 20 mmol, 3.38 g | C1CCOC1.C(C1=CC=CC=C1)OCCO
reactant | 4-chloro-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine | 19.4 mmol, 3.28 grams | ClC1=NC(=NC2=C1CCC2)N | C7H8ClN3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-benzyloxyethoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine | C(C1=CC=CC=C1)OCCOC1=NC(=NC2=C1CCC2)N | C16H19N3O2
